US07332501B2
1′-({1-[2-(3,4-Dimethoxyphenyl)ethyl]-5-methoxy-2-methyl-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure I as described above, the acylation of 3H-spiro[2-benzofuran-1,4′-piperidin]-3-one prepared as described in example 16 above, with commercially available 1-[2-(3,4-dimethoxy-phenyl)-ethyl]-5-methoxy-2-methyl-1H-indole-3-carboxylic acid, gave the title compound. ES-MS m/e (%): 555.3 (M+H+).

reactant | 3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | N1CCC2(CC1)OC(C1=C2C=CC=C1)=O | C12H13NO2
reactant | 1-[2-(3,4-dimethoxy-phenyl)-ethyl]-5-methoxy-2-methyl-1H-indole-3-carboxylic acid | COC=1C=C(C=CC1OC)CCN1C(=C(C2=CC(=CC=C12)OC)C(=O)O)C | C21H23NO5
product | 1′-({1-[2-(3,4-Dimethoxyphenyl)ethyl]-5-methoxy-2-methyl-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | COC=1C=C(C=CC1OC)CCN1C(=C(C2=CC(=CC=C12)OC)C(=O)N1CCC2(CC1)OC(C1=C2C=CC=C1)=O)C | C33H34N2O6
